US05932601
In substantially the same manner as in Working Example 11, 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolyl-methoxy)cinnamaldehyde was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic reduction to yield 5-[3-[4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione, which was recrystallized from chloroform-methanol to give colorless prisms, m.p.185-187° C.

reactant | 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolyl-methoxy)cinnamaldehyde | COC1=C(C=C(C=CC=O)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H19NO4
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[3-[4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | COC1=C(C=C(C=C1)CCCC1C(NC(O1)=O)=O)OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H24N2O6
